.subckt 4_bit_ANDer En A3 A2 A1 A0 B3 B2 B1 B0 y3 y2 y1 y0 vdd gnd
    .include AND.sub
    
    X1 A0 B0 w0 vdd gnd AND
    X2 A1 B1 w1 vdd gnd AND
    X3 A2 B2 w2 vdd gnd AND
    X4 A3 B3 w3 vdd gnd AND

    X5 En w0 y0 vdd gnd AND
    X6 En w1 y1 vdd gnd AND
    X7 En w2 y2 vdd gnd AND
    X8 En w3 y3 vdd gnd AND
.ends 4_bit_ANDer