.subckt 4_bit_Adder_Sub En A3 A2 A1 A0 B3 B2 B1 B0 C_over S3 S2 S1 S0 vdd gnd
    .include XOR.sub
    .include full_adder.sub
    .include AND.sub

    X1 B3 En B_eff3 vdd gnd XOR
    X2 B2 En B_eff2 vdd gnd XOR
    X3 B1 En B_eff1 vdd gnd XOR
    X4 B0 En B_eff0 vdd gnd XOR

    X5 A0 B_eff0 En S0 C0 vdd gnd full_adder
    X7 A1 B_eff1 C0 S1 C1 vdd gnd full_adder
    X9 A2 B_eff2 C1 S2 C2 vdd gnd full_adder
    X11 A3 B_eff3 C2 S3 C_over vdd gnd full_adder

.ends 4_bit_Adder_Sub