.subckt AND_5 inA inB inC inD inE out vdd gnd
    .include NAND_5.sub
    .include NOT.sub

    X1 inA inB inC inD inE out1 vdd gnd NAND_5
    X2 out1 out vdd gnd NOT
.ends AND_5