.subckt NAND_4 inA inB inC inD out vdd gnd
    .include AND.sub
    .include NAND_3.sub

    X1 inA inB out1 vdd gnd AND
    X2 inC inD out1 out vdd gnd NAND_3
.ends NAND_4