.subckt NOR_3 inA inB inC out vdd gnd
    .include OR.sub
    .include NOR.sub

    X1 inA inB out1 vdd gnd OR
    X2 inC out1 out vdd gnd NOR
.ends NOR_3