.subckt NOR_5 inA inB inC inD inE out vdd gnd
    .include OR.sub
    .include NOR_4.sub

    X1 inA inB out1 vdd gnd OR
    X2 inC inD inE out1 out vdd gnd NOR_4
.ends NOR_5