.subckt OR_5 inA inB inC inD inE out vdd gnd
    .include NOT.sub
    .include NOR_5.sub

    X1 inA inB inC inD inE out1 vdd gnd NOR_5
    X2 out1 out vdd gnd NOT
.ends OR_5